US04906768
A reactor was charged with 1 mole of 2-methyl-5-hydroxyimino-2-heptene, 8 moles of methanol containing 1.2 moles of sodium methylate, and 10 moles of tetrahydrofuran (THF). The mixture was cooled to 0° C., and with stirring, 1.3 moles of allyl bromide was added dropwise over 5 minutes. The mixture was stirred at room temperature for one day. The reaction mixture was concentrated, and 40 parts of methylene chloride was added. The mixture was washed with water, and the solvent was evaporated. The residue was purified by silica gel column chromatography to give 2-methyl-5-allyloxyimino-2-heptene in a yield of 80 mole %. Identification of this compound was performed by using IR, NMR and mass spectra (the same techniques were used to identify compounds appearing hereinafter).

reactant | 2-methyl-5-hydroxyimino-2-heptene | 1 mole | CC(C)=CCC(CC)=NO | C8H15NO
reactant | methanol | 8 moles | CO | CH4O
reactant | sodium methylate | C[O-].[Na+]
reactant | tetrahydrofuran | 10 moles | O1CCCC1 | C4H8O
reactant | allyl bromide | 1.3 moles | C(C=C)Br | C3H5Br
product | 2-methyl-5-allyloxyimino-2-heptene | CC(C)=CCC(CC)=NOCC=C | C11H19NO
